*Values
*Number:95787
*Units for the values: V, mA, kOhm, mS and uF
*R1 = 1.02943118797 
*R2 = 2.01395929215 
*R3 = 3.04865352258 
*R4 = 4.00813564187 
*R5 = 3.14877356154 
*R6 = 2.0324721756 
*R7 = 1.02032682556 
*Vs = 5.05481864136 
*C = 1.02872173547 
*Kb = 7.12052712169 
*Kd = 8.12923323408

* NGSPICE simulation script
*
* forces current values to be saved
.options savecurrents

R1 1 2 1.029431k
R2 2 3 2.013959k
R3 2 5 3.048654k
R4 0 5 4.008136k
R5 5 6 3.148774k
R6 0 4 2.032472k
R7 7 8 1.020327k
Vs 1 0 0 ac 1
Vf 4 7 DC 0
C 6 8 1.028722u
Gb 6 3 2 5 7.120527m
Hd 5 8 Vf 8.129233k

*.INCLUDE data_sim5.txt
.ic v(6)=8.573530 v(8)=0
.end
.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 0.1 10 100MEG

hardcopy acm.ps db(v(coll)) v(base)
echo acm_FIG
hardcopy acp.ps v(base)
echo acp_FIG


quit
.endc
.end

